US05284837
A mixture of 9-(4-hydroxy-2-hydroxymethylbutyl)guanine (0.05 g, 2.0 mmol), propionic anhydride (1.56 g, 12.0 mmol), pyridine (1.27 g, 16.0 mmol), and dry N,N-dimethylformamide (25 ml) was stirred at room temperature for 14 days and then evaporated to dryness in vacuum. The crystalline residue was heated with 10 ml of water and lyophilized and recrystallized from water to give 0.418 g (57%) of 9-(4-propionoxy-2-propionoxymethylbutyl)-guanine.

reactant | 9-(4-hydroxy-2-hydroxymethylbutyl)guanine | 2.0 mmol, 0.05 g | OCCC(CN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | propionic anhydride | 12.0 mmol, 1.56 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 16.0 mmol, 1.27 g | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 9-(4-propionoxy-2-propionoxymethylbutyl)-guanine | 0.418 g, 57% | C(CC)(=O)OCCC(CN1C=2N=C(NC(C2N=C1)=O)N)COC(CC)=O | C16H23N5O5
